US08563715B2
The synthesis method shall be explained concretely, and in order, below. Phosphorus oxychloride (0.12 ml, 1.3 mmol) was added to dimethylformamide (0.3 ml, 4.0 mmol) at 0 degrees Celsius, and this was agitated for 5 minutes at 0 degrees Celsius. To this solution, 4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine was dissolved in dimethylformamide (6 ml) and added, and this was agitated under heating for 1 hour at 100 degrees Celsius. After 2N NaOH solution was added to make the reaction liquid basic, extraction was carried out 2 times with ethyl acetate. After washing the organic layer with saturated saline, drying was done with MgSO4, and the solvent was distilled away under reduced pressure. Purification was done by silica gel chromatography (hexane:ethyl acetate=2:3), and 350 mg of 4,6-dimorpholino-5-formyl-2-(4-phenylpiperazin-1-yl)pyrimidine (yield 80%) was obtained. The melting point measurement result, the MS measurement result, and the NMR data for the obtained Compound 142 are shown below.

reactant | Phosphorus oxychloride | 1.3 mmol, 0.12 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4,6-dimorpholino-2-(4-phenylpiperazin-1-yl)pyrimidine | O1CCN(CC1)C1=NC(=NC(=C1)N1CCOCC1)N1CCN(CC1)C1=CC=CC=C1 | C22H30N6O2
reactant | NaOH | 2N | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4.0 mmol, 0.3 ml | CN(C=O)C | C3H7NO
product | 4,6-dimorpholino-5-formyl-2-(4-phenylpiperazin-1-yl)pyrimidine | 350 mg, yield 80% | O1CCN(CC1)C1=NC(=NC(=C1C=O)N1CCOCC1)N1CCN(CC1)C1=CC=CC=C1 | C23H30N6O3
